US05144075
N,N-Di-n-dodecylhydroxylamine
A solution of dodecanal (9.2 g, 50 mmol) and hydroxylamine hydrochloride (3.8 g, 54 mmol) in 75 ml of methanol and 10 ml of ethyl acetate is shaken under hydrogen at 40-45 psi (2.8-3.15 Kg/cm2) for five hours at room temperature in the presence of a catalytic amount of 5% platinum on carbon (450 mg). The reaction mixture is then filtered through CELITE filter agent. The filtrate is concentrated and the residue is treated with a saturated aqueous potassium carbonate solution till the pH is over 10. A white solid is isolated by filtration and is recrystallized from methanol to provide 4.7 g (51% yield) of the title compound as a white solid melting at 88° C.

reactant | dodecanal | 50 mmol, 9.2 g | C(CCCCCCCCCCC)=O | C12H24O
reactant | hydroxylamine hydrochloride | 54 mmol, 3.8 g | Cl.NO
solvent | methanol | 75 ml | CO | CH4O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum on carbon | 450 mg | [Pt] | Pt
product | N,N-Di-n-dodecylhydroxylamine | 4.7 g, 51% yield | C(CCCCCCCCCCC)N(O)CCCCCCCCCCCC | C24H51NO
